US07820356B2
Synthesis of Hexyl Norbornene (HxNB)/Diphenylmethyl Norbornenemethoxy Silane (diPhNB) Copolymer (P1)
HxNB (8.94 g, 0.05 mol), diPhNB (16.1 g, 0.05 mol), 1-hexene (4.2 g, 0.05 mol) and toluene (142.0 g) were combined in a 250 mL serum bottle and heated to 120° C. in an oil bath to form a solution. To this solution were added [Pd(PCy3)2(O2CCH3)(NCCH3)]tetrakis(pentafluorophenyl)borate (Pd1446) (5.8E-3 g, 4.0E-6 mol) and N, N-dimethylanilinium tetrakis(pentafluorophenyl)borate (DANFABA) (3.2E-3 g, 4.0E-6 mol), each in the form of a concentrated dichloromethane solution After addition, the resulting mixture was maintained at 120° C. for 6 hours. The copolymer was precipitated by adding methanol drop wise into the vigorously stirred reaction mixture. The precipitated copolymer was collected by filtration and dried in an oven at 80° C. under vacuum After drying, 12.0 g was obtained (48%). The molecular weight of the copolymer was determined by GPC in THF solvent (polystyrene standard) to be Mw=16,196 and Mn=8,448. The composition of the copolymer was determined by 1H-NMR to be 54/46 HxNB/diPhNB. The refractive indices of this polymer were measured by prism coupling method and determined to be 1.5569 in TE mode and 1.5555 in TM mode at a wavelength of 633 nm. The dried copolymer was dissolved in sufficient mesitylene to result in a 10 wt % copolymer solution.

reactant | 1-hexene | 0.05 mol, 4.2 g | C=CCCCC | C6H12
reactant | toluene | 142.0 g | C1(=CC=CC=C1)C | C7H8
reactant | N, N-dimethylanilinium tetrakis(pentafluorophenyl)borate | 4.0E-6 mol, 3.2E-3 g | FC1=C(C(=C(C(=C1[B-](C1=C(C(=C(C(=C1F)F)F)F)F)(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.C[NH+](C1=CC=CC=C1)C
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
product | Hexyl Norbornene | C(CCCCC)C12C=CC(CC1)C2 | C13H22
